US07700622B2
A. N-Cyclopropyl-3-iodo4-methyl-benzamide
A solution of 3-iodo-4-methylbenzoic acid (10.5 g, 40 mmol), 1-(3-dimethlaminopropyl) -3-ethylcarbodiimide hydrochloride (9.2 g, 48 mmol) and cyclopropylamine (2.6 g, 45.6 mmol) in N,N-dimethylformamide (70 ml) was stirred at room temperature for 4 h. Water (250 mL) was added. The solution was extracted with ethyl acetate (200mL×2), washed with saturated K2CO3 solution (200 mL) and water (200 mL). Organic layer was dried over Na2SO4 and evaporated under reduced pressure to give the desired product (11.8 g, 98%).

reactant | 3-iodo-4-methylbenzoic acid | 40 mmol, 10.5 g | IC=1C=C(C(=O)O)C=CC1C | C8H7IO2
reactant | 1-(3-dimethlaminopropyl) -3-ethylcarbodiimide hydrochloride | 48 mmol, 9.2 g | Cl.CN(CCCN=C=NCC)C
reactant | cyclopropylamine | 45.6 mmol, 2.6 g | C1(CC1)N | C3H7N
reactant | Water | 250 mL | O | H2O
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | N-Cyclopropyl-3-iodo4-methyl-benzamide | 11.8 g, 98% | C1(CC1)NC(C1=CC(=C(C=C1)C)I)=O | C11H12INO
